US05204370
1,4-Bis-(3-Chloro-2-Hydroxypropylamino)-9, 10-Anthracenedione
Epichlorohydrin (84.5 mL, 1.08 mol) was added to a solution of 1,4 - diaminoanthraquinone (Aldrich Chemical Company, Milwaukee, Wis.) (10 g, 42 mmol) in glacial acetic acid (200 mL) at room temperature. The solution was stirred for 30 minutes at 90° C. and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography (silica gel, CH2Cl2 :MeOH/25:1) and recrystallized from CH2Cl2 -Ether-Hexanes to give a pure blue solid of the title compound (12.46 g, 70%), mp 167°-169° C.: 1H NMR (CDCl3) δ 3.21 (broad, 2H, OH), 3.5-3.6 (m, 6H, CHCH2), 3.75 (d, J=3Hz, 4H, CH2), 4.19 (broad, 2H, NH), 7.03 (d, J=3.2 Hz, 2H, ArH (2, 3)), 7.69 (m, 2H, ArH (6, 7)), 8.27 (m, 2H, ArH (5, 8)). Anal. Calcd for C20H20O4N2Cl2 ×0.25 H2O: C, 56.15; H, 4.83; N, 6.55. Found: C, 56.18; H, 4.76; N, 6.29.

reactant | Epichlorohydrin | 1.08 mol, 84.5 mL | C(Cl)C1CO1 | C3H5ClO
reactant | 1,4 - diaminoanthraquinone | 42 mmol, 10 g | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 1,4-Bis-(3-Chloro-2-Hydroxypropylamino)-9, 10-Anthracenedione | 12.46 g, 70% | ClCC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CCl)O)O | C20H20Cl2N2O4
